US07795272B2
To a chilled (−78° C.) solution of 1 g (3.7 mmol) of 2-(6-bromo-4-methylchroman-4-yl)ethanol in 10 mL of dry tetrahydrofuran was added 3.25 mL (8 mmol) of a 2.5 M solution of n-BuLi in hexanes. After 10 minutes, 0.66 mL (7.4 mmol) of dimethyldisulfide was added and the reaction was warmed to room temperature. After 30 minutes, the reaction was cooled to −78° C., quenched with saturated aqueous ammonium chloride, warmed to room temperature and extracted with ethyl acetate. The combined organic fractions were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash silica gel chromatography eluting with ethyl acetate-hexanes (0-30% gradient) to afford 0.43 g (50%) of 2-(4-methyl-6-methylsulfanylchroman-4-yl)ethanol as an oil.

reactant | 2-(6-bromo-4-methylchroman-4-yl)ethanol | 3.7 mmol, 1 g | BrC=1C=C2C(CCOC2=CC1)(C)CCO | C12H15BrO2
reactant | n-BuLi | [Li]CCCC
reactant | dimethyldisulfide | 7.4 mmol, 0.66 mL | CSSC | C2H6S2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(4-methyl-6-methylsulfanylchroman-4-yl)ethanol | 0.43 g, 50% | CC1(CCOC2=CC=C(C=C12)SC)CCO | C13H18O2S
